US05750545
3,5-Diamino-1-[methylamino(thiocarbonyl)]-1H-1,2,4-triazole
The synthesis method of Example 1-(3) was applied. 3,5-Diamino-1H-1,2,4-triazole (11.0 g), dimethylformamide (100 ml) and methyl isothiocyanate (10.0 g) were used as reagents. After the reaction, recrystallization from ethyl acetate gave 13.0 g of white powdery crystals (yield (68%).

reactant | 3,5-Diamino-1H-1,2,4-triazole | 11.0 g | NC1=NNC(=N1)N | C2H5N5
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | methyl isothiocyanate | 10.0 g | CN=C=S | C2H3NS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,5-Diamino-1-[methylamino(thiocarbonyl)]-1H-1,2,4-triazole | 13.0 g | NC1=NN(C(=N1)N)C(=S)NC | C4H8N6S
